US07285558B2
3-[7-isobutyl-5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]benzoic acid
This compound was made following the procedure described above, starting with 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 1-naphthaldehyde, followed by 3-formylbenzoic acid. Mass: 482.72 (M+H).

reactant | 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | N(N)C1=CC(N(C(N1CC(C)C)=O)C)=O | C9H16N4O2
reactant | 1-naphthaldehyde | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | 3-formylbenzoic acid | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
product | 3-[7-isobutyl-5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]benzoic acid | C(C(C)C)N1C(N(C(C=2C1=NN(C2C=2C=C(C(=O)O)C=CC2)CC2=CC=CC1=CC=CC=C21)=O)C)=O | C28H26N4O4
